US05006570
Step I - Preparation of 5-Chlorosulphonyl-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid-Intermediate (A)
630 g of chlorosulphonic acid were introduced into a 1-liter round-bottomed flask. The contents were cooled to 0° C. and 160 g of finely ground 2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid were then added in portions, maintaining the temperature between 0° and 5° C. by cooling in an ice bath.

reactant | chlorosulphonic acid | 630 g | ClS(=O)(=O)O | ClHO3S
reactant | 2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid | CC1OC2=C(C1)C=CC=C2C(=O)O | C10H10O3
product | 5-Chlorosulphonyl-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid | ClS(=O)(=O)C=1C=C(C2=C(CC(O2)C)C1)C(=O)O | C10H9ClO5S
